US04888328
To a mixture of 10 ml of gamma-butyrolactone and 40 ml of 1-decanol was added a crystal of p-toluenesulfonic acid. The reaction mixture was heated at 150° C. for 72 hours with stirring, cooled to room temperature, and then treated with 10 mg of sodium acetate. Flash chromatography (silica; 4:1 hexane:ethyl acetate eluent) afforded 5.6 g (17.7%) of 4-hydroxybutanoic acid, n-decyl ester as an oil.

reactant | gamma-butyrolactone | 10 ml | C1(CCCO1)=O | C4H6O2
reactant | 1-decanol | 40 ml | C(CCCCCCCCC)O | C10H22O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium acetate | 10 mg | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 4-hydroxybutanoic acid, n-decyl ester | 5.6 g, 17.7% | OCCCC(=O)OCCCCCCCCCC | C14H28O3
